US06001831
Monatsh. Chem. (1987) 118; pages 71-79 describes the reaction of methyl N-(methoxycarbonylmethyl)anthranilate with potassium cyanate in glacial acetic acid to give methyl 1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-ylacetate. Although 10 equivalents of potassium cyanate are employed, the yield is only 19%.

reactant | methyl N-(methoxycarbonylmethyl)anthranilate | COC(=O)CNC=1C(C(=O)OC)=CC=CC1 | C11H13NO4
reactant | potassium cyanate | [O-]C#N.[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-ylacetate | O=C1N(C2=CC=CC=C2C(N1)=O)CC(=O)OC | C11H10N2O4
